US09359338B2
Step 2: Synthesis of tert-butyl 4-[3-amino-5-(trifluoromethyl)phenyl]piperidine-1-carboxylate
Add tert-butyl 4-(3-nitro-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (300 mg, 1.87 mmol) and Pd/C (10%, 50 mg) in ethanol (10 mL), flush with H2, stir under hydrogen atmosphere for 48 hrs at room temperature, filter and concentrate the filtrate to yield a white solid (220 mg, 73.9%). MS: (M+23): 367.

reactant | tert-butyl 4-(3-nitro-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.87 mmol, 300 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C1=CCN(CC1)C(=O)OC(C)(C)C | C17H19F3N2O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | tert-butyl 4-[3-amino-5-(trifluoromethyl)phenyl]piperidine-1-carboxylate | 220 mg, 73.9% | NC=1C=C(C=C(C1)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C17H23F3N2O2
